US06417366B2
To a dry, jacketed 250-mL three-necked round-bottom flask was charged sodium bis(2-methoxyethoxy)aluminum hydride (Red-Al, 70% wt. solution in toluene, 11.0 g, 38.1 mmol, 1.39 eq) and anhydrous THF (20 mL). To this precooled (0-2° C.) and magnetically stirred solution was added a THF (50 mL) solution of the 3-(3-quinolyl)-2-propyn-1-ol (5.0 g, 27.32 mmol) via pressure equalizing dropping funnel. The temperature was not allowed to rise above 15° C. After the addition was complete (20 minutes) the mixture was allowed to warm up to room temperature and stirred for one hour. The solution was then cooled to 0° C. and quenched by the addition of aqueous 10% sulfuric acid (20 mL) such that the internal temperature did not rise above 15° C. The biphasic reaction mixture was then washed with ethyl acetate (3×100 mL). The pH of the aqueous acidic product solution was then adjusted to pH 9-10 with aq. conc. NH4OH and back extracted into ethyl acetate (2×125 mL). The combined organic layers were dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure to give exclusively 3-(3-quinolyl) trans-2-propen-1-ol as a solid: 4. 1 g, 81%.

reactant | sodium bis(2-methoxyethoxy)aluminum hydride | 38.1 mmol, 11.0 g, 1.39 eq | [H-].COCCO[Al+]OCCOC.[Na+].[H-]
reactant | 3-(3-quinolyl)-2-propyn-1-ol | 27.32 mmol, 5.0 g | N1=CC(=CC2=CC=CC=C12)C#CCO | C12H9NO
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-(3-quinolyl) trans-2-propen-1-ol | N1=CC(=CC2=CC=CC=C12)/C=C/CO | C12H11NO
